US05623073
STEP A: 9-Benzyl-2-diethylaminomethyl-3-ethoxycarbonylimidazo[1,2-a]benzimidazole
Add 1.04 ml (10 mmol) of diethylamine to a hot solution of 9-benzyl-2-bromomethyl-3-ethoxycarbonylimidazo[1,2-a]benzimidazole (2.01 g, 5 mmol), prepared as described for the alkylated analogues in Khim. Farm. ZH 88, 22 (7), 815-9, in 20 ml of benzene. Heat at reflux for one hour, cool. Remove the resulting precipitate, evaporate the benzene, and the residue is recrystallised by hexane to yield the title compound.

reactant | diethylamine | 10 mmol, 1.04 ml | C(C)NCC | C4H11N
reactant | 9-benzyl-2-bromomethyl-3-ethoxycarbonylimidazo[1,2-a]benzimidazole | 5 mmol, 2.01 g | C(C1=CC=CC=C1)N1C=2N(C3=C1C=CC=C3)C(=C(N2)CBr)C(=O)OCC | C20H18BrN3O2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 9-Benzyl-2-diethylaminomethyl-3-ethoxycarbonylimidazo[1,2-a]benzimidazole | Yield: 96% | C(C1=CC=CC=C1)N1C=2N(C3=C1C=CC=C3)C(=C(N2)CN(CC)CC)C(=O)OCC | C24H28N4O2
